data/oMe_Silver.jsonl
{"reaction_id": "NR-106_1-c1ccccc1_2-c1cccc2ccccc12_3-C=Cc1ccccc1_4-C(C)C","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(c1ccccc1)(c1cccc2ccccc12)[N+](=O)[O-]","C(C=Cc1ccccc1)(C(C)C)=O","[OH-]"],"products_smiles": ["C(C=Cc1ccccc1)(C(C)C)(O)C(c1ccccc1)(c1cccc2ccccc12)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(c1cccc2ccccc12)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C=Cc1ccccc1)(C(C)C)([O-])C(c1ccccc1)(c1cccc2ccccc12)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C=Cc1ccccc1)(C(C)C)(O)C(c1ccccc1)(c1cccc2ccccc12)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
{"reaction_id": "NG-004_1-C1CCCCC1","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(CC1CCCCC1)C=O","C(CC1CCCCC1)C=O"],"products_smiles": ["C(CC1CCCCC1)C=C(C=O)C1CCCCC1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C=O)C1CCCCC1","rationale": "The base abstracts the acidic alpha-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC1CCCCC1)C([O-])C(C=O)C1CCCCC1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, favored by polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC1CCCCC1)C(O)C(C=O)C1CCCCC1","rationale": "Protonation of the alkoxide intermediate occurs to form the more stable neutral beta-hydroxyketone under basic aqueous conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC1CCCCC1)C(O)[C-](C=O)C1CCCCC1","rationale": "The base deprotonates the alpha-position again, generating an enolate that is positioned for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC1CCCCC1)C=C(C=O)C1CCCCC1","rationale": "Elimination of hydroxide occurs, forming a conjugated enone stabilized by extended pi-delocalization, making the step thermodynamically favorable."}],"description": "Under basic conditions, an alpha-proton is abstracted to form an enolate, which nucleophilically attacks another carbonyl, forming a beta-hydroxyketone. Subsequent deprotonation and elimination yield the conjugated enone via aldol condensation, driven by resonance stabilization of the product."}
